US07214798B2
12.1. tert-Butyl 4-hydroxy-4-(2-hydroxyethyl)-1-piperidinecarboxylate
A solution of 31.20 g (108.50 mmol) of tert-butyl 4-(2-ethoxy-2-oxoethyl)-4-hydroxy-1-piperidinecarboxylate (WO 02/16352) in 150 ml of tetrahydrofuran is added dropwise to a suspension of 4.12 g (108.50 mmol) of lithium aluminium hydride in 150 ml of tetrahydrofuran. The mixture is stirred at room temperature for 2 hours and is then worked up as described in Example 2 (step 2.4).

reactant | tert-butyl 4-(2-ethoxy-2-oxoethyl)-4-hydroxy-1-piperidinecarboxylate | 108.50 mmol, 31.20 g | C(C)OC(CC1(CCN(CC1)C(=O)OC(C)(C)C)O)=O | C14H25NO5
reactant | lithium aluminium hydride | 108.50 mmol, 4.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-hydroxy-4-(2-hydroxyethyl)-1-piperidinecarboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)CCO | C12H23NO4
